US04559354
After the addition of a total of 5 g of palladium-on-carbon catalyst (5%), a solution of 2.95 g of crude 1-[N-benzyl-2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-[4-(trifluoromethyl)-thiazol-2-yl]-phenoxy]-2-propanol in 80 ml of methanol is hydrogenated at 60° and a pressure of 4 bar until the absorption of hydrogen has ceased, the reaction product partly precipitating out of the solution. The suspension is diluted with 50 ml of dioxan/methanol, heated and filtered through a filter aid. The filtrate is freed of solvent in a rotary evaporator and the residue is recrystallised twice from methanol, yielding 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-[4-(trifluoromethyl)-thiazol-2-yl]-phenoxy]-2-propanol having a melting point of 202°-203°.

reactant | 1-[N-benzyl-2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-[4-(trifluoromethyl)-thiazol-2-yl]-phenoxy]-2-propanol | 2.95 g | C(C1=CC=CC=C1)N(CC(COC1=CC=C(C=C1)C=1SC=C(N1)C(F)(F)F)O)CCOC1=CC(=C(C=C1)O)C(N)=O | C29H28F3N3O5S
catalyst | palladium-on-carbon | 5 g | [Pd] | Pd
solvent | methanol | 80 ml | CO | CH4O
product | 1-[2-(3-carbamoyl-4-hydroxyphenoxy)-ethylamino]-3-[4-[4-(trifluoromethyl)-thiazol-2-yl]-phenoxy]-2-propanol | C(N)(=O)C=1C=C(OCCNCC(COC2=CC=C(C=C2)C=2SC=C(N2)C(F)(F)F)O)C=CC1O | C22H22F3N3O5S
